US08212021B2
A mixture of MeCN (45 mL), 1-O-acetyl-3,5-di-O-(4-chlorobenzoyl)-2-deoxy-D-ribofuranose (3.0 g), 2-[(trimethylsilyl)amino]4-[(trimethylsilyl)oxy]-s-triazine (1.78 g) and TfOH (0.5 g) were stirred at about 0° C. for 24 hours. DMSO (6 mL) was added and the mixture was evaporated at 30˜50° C. under reduced pressure to remove the MeCN. A 29% solution of MeONa in MeOH (1.8 g, 9.9 mmol, 1.5 eq.) was added with stirring at about 20˜25° C. After the reaction was complete, MeOH was added to effect precipitation and the solid was filtered, washed and dried to give crude decitabine. API grade decitabine (>99.0 HPLC purity) is prepared by the recrystallization of crude decitabine from MeOH, followed by three washes with MeOH and drying at 40° C. under vacuum.

reactant | 1-O-acetyl-3,5-di-O-(4-chlorobenzoyl)-2-deoxy-D-ribofuranose | 3.0 g | C(C)(=O)OC1C[C@H](OC(C2=CC=C(C=C2)Cl)=O)[C@H](O1)COC(C1=CC=C(C=C1)Cl)=O | C21H18Cl2O7
reactant | 2-[(trimethylsilyl)amino]4-[(trimethylsilyl)oxy]-s-triazine | 1.78 g | C[Si](C)(C)NC1=NC=NC(=N1)O[Si](C)(C)C | C9H20N4OSi2
reactant | TfOH | 0.5 g | S(=O)(=O)(C(F)(F)F)O | CHF3O3S
reactant | MeONa | CO[Na]
solvent | MeOH | CO | CH4O
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | MeCN | 45 mL | CC#N | C2H3N
solvent | MeOH | 9.9 mmol, 1.8 g, 1.5 eq. | CO | CH4O
product | decitabine | C1[C@@H]([C@H](O[C@H]1N2C=NC(=NC2=O)N)CO)O | C8H12N4O4
